US04987132
To a solution of methyl 4-methyl-4-phenyl-2-pentenoate (0.3 g) in absolute methanol (10 ml) was added metallic magnesium ribbons (0.36 g) and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added 10% hydrochloric acid and then the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to yield 0.30 g of methyl 4-methyl-4-phenylpentanoate.

reactant | methyl 4-methyl-4-phenyl-2-pentenoate | 0.3 g | CC(C=CC(=O)OC)(C)C1=CC=CC=C1 | C13H16O2
reactant | magnesium | [Mg] | Mg
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | methyl 4-methyl-4-phenylpentanoate | 0.30 g | CC(CCC(=O)OC)(C)C1=CC=CC=C1 | C13H18O2
